US06133258
The reaction procedure of Example 11 was followed except that 150 mg of 2-anilino-4H-pyrido[3,2-e]-1,3-thiazin-4-one, 6 mg of lithium hydride and 0.070 ml of benzyl bromide were used. As a result, 130 mg of 3-benzyl-2-phenylimino-2,3-dihydro-4H-pyrido[3,2-e]-1,3-thiazin-4-one was obtained.

reactant | 2-anilino-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 150 mg | N(C1=CC=CC=C1)C=1SC2=C(C(N1)=O)C=CC=N2 | C13H9N3OS
reactant | lithium hydride | 6 mg | [H-].[Li+]
reactant | benzyl bromide | 0.070 ml | C(C1=CC=CC=C1)Br | C7H7Br
product | 3-benzyl-2-phenylimino-2,3-dihydro-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 130 mg | C(C1=CC=CC=C1)N1C(SC2=C(C1=O)C=CC=N2)=NC2=CC=CC=C2 | C20H15N3OS
